US08207151B2
2-oxo-2-((6S,10R,13S)-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15-octahydro-3H-cyclopenta[a]phenanthren-17-yl)ethyl acetate:
(6S,10R,13S)-17-(2-hydroxyacetyl)-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl acetate is heated with 2 equivalents of potassium carbonate in dimethyl formamide. Standard aqueous workup yields the title compound.

reactant | (6S,10R,13S)-17-(2-hydroxyacetyl)-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl acetate | C(C)(=O)OC1(CCC2C3C[C@@H](C4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C)C(CO)=O | C24H30O5
reactant | potassium carbonate | 2 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2-oxo-2-((6S,10R,13S)-6,10,13-trimethyl-3-oxo-6,7,8,10,12,13,14,15-octahydro-3H-cyclopenta[a]phenanthren-17-yl)ethyl acetate | C(C)(=O)OCC(C1=CCC2C3C[C@@H](C4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C)=O | C24H28O4
